US05866513
Method C: Preparation of 3-(2,3,4-trimethoxyphenyl)-2-methyl-4-nitroisoxazolidine (Example 38)
A 5.88 g (26.1 mmol) portion of N-methyl-C-(2,3,4-trimethoxyphenyl)nitrone was added to 50 mL of 0.76 molar (38 mmol) nitroethylene in toluene. The mixture was heated at reflux for 2 h. The solvent was removed in vacuo to leave a brown tar which was purified by flash chromatography on a column of 50 g of silica gel eluted successively with 100 mL portions of 0, 10, 20, 30, 40 and 50% ether in hexanes to yield 4.53 g of an orange oil. This material was crystallized from 20 mL of ice-cold 1:1 ether:hexanes to give 3.16 g of 2-methyl-4-nitro-3-(2,3,4-trimethoxyphenyl)-isoxazolidine (Example 38) as a low melting solid.

reactant | N-methyl-C-(2,3,4-trimethoxyphenyl)nitrone | C[N+](=CC1=C(C(=C(C=C1)OC)OC)OC)[O-] | C11H15NO4
reactant | nitroethylene | 38 mmol, 0.76 molar | [N+](=O)([O-])C=C | C2H3NO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-(2,3,4-trimethoxyphenyl)-2-methyl-4-nitroisoxazolidine | 4.53 g | COC1=C(C=CC(=C1OC)OC)C1N(OCC1[N+](=O)[O-])C | C13H18N2O6
